US08445501B2
4-(2-Cyclopropylmethoxy-5-fluoro-4-methoxy-phenyl)-5H-pyrrolo[3,2-d]pyrimidine-7-carboxylic acid [(S)-1-(2-methoxy-ethanoyl)-piperidin-3-yl]amide
Starting from 4-(2-cyclopropylmethoxy-5-fluoro-4-methoxy-phenyl)-5H-pyrrolo[3,2-d]pyrimidine-7-carboxylic acid (S)-piperidin-3-ylamide hydrochloride (example A168) and methoxy-acetyl chloride the title compound is obtained as colorless solid.

reactant | 4-(2-cyclopropylmethoxy-5-fluoro-4-methoxy-phenyl)-5H-pyrrolo[3,2-d]pyrimidine-7-carboxylic acid (S)-piperidin-3-ylamide hydrochloride | Cl.N1C[C@H](CCC1)NC(=O)C1=CNC2=C1N=CN=C2C2=C(C=C(C(=C2)F)OC)OCC2CC2
reactant | methoxy-acetyl chloride | COCC(=O)Cl | C3H5ClO2
product | 4-(2-Cyclopropylmethoxy-5-fluoro-4-methoxy-phenyl)-5H-pyrrolo[3,2-d]pyrimidine-7-carboxylic acid [(S)-1-(2-methoxy-ethanoyl)-piperidin-3-yl]amide | COCC(=O)N1C[C@H](CCC1)NC(=O)C1=CNC2=C1N=CN=C2C2=C(C=C(C(=C2)F)OC)OCC2CC2 | C26H30FN5O5
